US04002746
dl-17β-Ethoxy-13-ethylgon-4-en-3-one
Add 2.0 g. of lithium to a suspension of 2.0 g. of dl-17β-ethoxy-13-ethyl-3-methoxygona-1,3,5(10)-triene, 90 ml. of 1,2-dimethoxyethane, 100 ml. of 1-methoxy-2-propanol, and 300 ml. of ammonia while stirring. Treat with 2.0 g. of ammonium chloride and water, filter off the precipitate and add it to 80 ml. of methanol, 4 ml. of water, and 5 ml. of conc. hydrochloric acid. Stir for one hour and dilute with water. Extract the product with ether and recrystallize it successively from methanol-water and petroleum ether-ether to obtain the title substance, m.p. 95°-97°; ultraviolet peak at 244 mμ (15,900); infrared peak at 6.0 μ.

reactant | lithium | [Li] | Li
reactant | 17β-ethoxy-13-ethyl-3-methoxygona-1,3,5(10)-triene | C(C)O[C@H]1CC[C@H]2[C@H]3[C@H](CC[C@]12CC)C=1C=CC(=CC1CC3)OC | C22H32O2
reactant | 1-methoxy-2-propanol | COCC(C)O | C4H10O2
reactant | ammonia | N | H3N
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 17β-Ethoxy-13-ethylgon-4-en-3-one | C(C)O[C@H]1CC[C@H]2[C@H]3[C@H](CC[C@]12CC)[C@H]1CCC(C=C1CC3)=O | C21H32O2
